US08236826B2
Production of 1-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}-4-benzoyloxypiperidine
To a solution of 1-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}-4-hydroxypiperidine (200 mg, 0.44 mmol) in dichloromethane (8 mL) were added with triethylamine (0.091 mL, 0.65 mmol), benzoyl chloride (74 mg, 0.53 mmol) and 4-(dimethylamino)pyridine (3 mg, 0.025 mmol), and the resulting solution was stirred for 2.5 days at room temperature. This reaction solution was purified by silica gel column chromatography (methanol:dichloromethane=7:93), to thereby yield 80 mg of the title compound.

reactant | 1-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}-4-hydroxypiperidine | 0.44 mmol, 200 mg | ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)N3CCC(CC3)O)C=C2)C=CC1Cl | C24H22Cl2N2O3
reactant | triethylamine | 0.65 mmol, 0.091 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.53 mmol, 74 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.025 mmol, 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}-4-benzoyloxypiperidine | ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)N3CCC(CC3)OC(C3=CC=CC=C3)=O)C=C2)C=CC1Cl | C31H26Cl2N2O4
